US06544985B2
A solution of rac-3-(2-bromo-propionyl)-benzoic acid methyl ester (2.71 g) and 2-(tert.-butylcarbonyloxy)thioacetamide (2.1 g) in EtOH (20 mL) was heated at reflux for 6 h. The mixture was partitioned between AcOEt and brine, and the organic layer was dried and evaporated. A solution of the residual oil and NaOMe (0.54 g) in MeOH (20 mL) was stirred at 60° C. for 1 h. The solution was diluted with AcOEt, washed with 1N HCl and brine, dried and evaporated to give 3-(2-hydroxymethyl-5-methyl-thiazol-4-yl)-benzoic acid methyl ester (1.17 g) as white crystals, MS (ISP) 264.1 [(M+H)+].

reactant | rac-3-(2-bromo-propionyl)-benzoic acid methyl ester | 2.71 g | COC(C1=CC(=CC=C1)C(C(C)Br)=O)=O | C11H11BrO3
reactant | 2-(tert.-butylcarbonyloxy)thioacetamide | 2.1 g | C(C)(C)(C)C(=O)OCC(=S)N | C7H13NO2S
solvent | EtOH | 20 mL | CCO | C2H6O
product | 3-(2-hydroxymethyl-5-methyl-thiazol-4-yl)-benzoic acid methyl ester | 1.17 g | COC(C1=CC(=CC=C1)C=1N=C(SC1C)CO)=O | C13H13NO3S
